US07105544B2
Isopropyl 3-[1-(3-{[bis(4-chlorophenyl)acetyl]amino}propyl)-4-piperidinyl]phenylcarbamate
Example 143 was prepared from bis(4-chlorophenyl)acetic acid and isopropyl 3-[1-(3-aminopropyl)-4-piperidinyl]phenylcarbamate according to the procedures described in Scheme 9: 1H NMR (400 MHz, CDCl3) δ 7.46 (s, 1H), 7.37 (s, 1H), 7.23–7.10 (m, 9H), 7.00 (d, 1H, J=7.9 Hz), 6.80 (d, 1H, J=7.4 Hz), 6.60 (s, 1H), 4.88 (septet, 1H, J=6.2 Hz), 4.68 (s, 1H), 4.05 (q, 1H, J=7.3 Hz), 3.32 (q, 2H, J=5.9 Hz), 2.90–2.83 (m, 2H), 2.44–2.32 (m, 3H), 1.94–1.86 (m, 2H), 1.78–1.70 (m, 2H), 1.60 (quintet, 2H, J=6.4 Hz), 1.56–1.43 (m, 1H), 1.22 (d, 6H, J=6.2 Hz); ESMS m/e: 582.2 (M+H)+.

reactant | bis(4-chlorophenyl)acetic acid | ClC1=CC=C(C=C1)C(C(=O)O)C1=CC=C(C=C1)Cl | C14H10Cl2O2
reactant | isopropyl 3-[1-(3-aminopropyl)-4-piperidinyl]phenylcarbamate | NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(OC(C)C)=O | C18H29N3O2
product | Isopropyl 3-[1-(3-{[bis(4-chlorophenyl)acetyl]amino}propyl)-4-piperidinyl]phenylcarbamate | ClC1=CC=C(C=C1)C(C(=O)NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(OC(C)C)=O)C1=CC=C(C=C1)Cl | C32H37Cl2N3O3
